US07026340B2
(3,3,3-Trifluoropropyl)malononitrile (407 mg) was dissolved in N,N-dimethylformamide (5 ml), and potassium carbonate (347 mg) was added thereto, and then, a solution of 3-(chloromethyl)pyridine (320 mg) in N,N-dimethylformamide (1 ml) was added dropwise to the mixture, followed by stirring overnight at room temperature. To the reaction mixture was added water, and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue obtained was subjected to silica gel column chromatography to give 400 mg of 2-((3-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile represented by the following formula (hereinafter referred to as the present invention compound (6)).

reactant | (3,3,3-Trifluoropropyl)malononitrile | 407 mg | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | potassium carbonate | 347 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(chloromethyl)pyridine | 320 mg | ClCC=1C=NC=CC1 | C6H6ClN
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-((3-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile | 400 mg | N1=CC(=CC=C1)CC(C#N)(C#N)CCC(F)(F)F | C12H10F3N3
